US09056874B2
5,7-Dimethyl-1-tosyl-3-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-5-yl)-1H-indole-4-carbaldehyde
To a suspension of 3-bromo-5,7-dimethyl-1-tosyl-1H-indole-4-carbaldehyde (100 mg, 0.246 mmol), 1-(2-trimethylsilylethoxy)methyl-1H-pyrazole-5-boronic acid pinacol ester (CAS #: 903550-12-9) (239 mg, 0.738 mmol), and K3PO4 (157 mg, 0.738 mmol) in DME (1 mL)/H2O (0.5 mL) was added Pd(PPh3)4 (56.9 mg, 0.049 mmol), and then the mixture was stirred at 80° C. for 16 h. The reaction mixture was cooled down to room temperature. The mixture was diluted with CH2Cl2. The bi-phase layer was partitioned. The organic layer was separated, dried over MgSO4, filtered and concentrated. The resulting residue was purified by silica gel flash column chromatography [heptane/(30% EtOAc in CH2Cl2)=1/0 to 4/6] to give the title compound. MS (ESI+) m/z 524.2 (M+H).

reactant | 3-bromo-5,7-dimethyl-1-tosyl-1H-indole-4-carbaldehyde | 0.246 mmol, 100 mg | BrC1=CN(C=2C(=CC(=C(C12)C=O)C)C)S(=O)(=O)C1=CC=C(C)C=C1 | C18H16BrNO3S
reactant | 1-(2-trimethylsilylethoxy)methyl-1H-pyrazole-5-boronic acid pinacol ester | 0.738 mmol, 239 mg | C[Si](CCOCN1N=CC=C1B1OC(C)(C)C(C)(C)O1)(C)C | C15H29BN2O3Si
reactant | K3PO4 | 0.738 mmol, 157 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | H2O | 0.5 mL | O | H2O
solvent | DME | 1 mL | COCCOC | C4H10O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.049 mmol, 56.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5,7-Dimethyl-1-tosyl-3-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-5-yl)-1H-indole-4-carbaldehyde | CC1=C(C=2C(=CN(C2C(=C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=CC=NN1COCC[Si](C)(C)C)C=O | C27H33N3O4SSi
